US07977344B2
N2-Butyl-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-8-methoxy-9H-purine-2,6-diamine
A mixture of N2-Butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (200 mg) and potassium carbonate (236 mg) in dry DMF (2 mL) were heated at 60° C. under nitrogen with stirring for 1 h. (2,2-Dimethyltetrahydro-2H-pyran-4-yl)methyl methanesulfonate (152 mg) was added and stirring was continued for 5 h at 50° C. The reaction was cooled to room temperature and stirred for 16 h. Lithium bromide (50 mg) was added and heating was continued for 5 h at 50° C., then 8 h at 90° C. The mixture was quenched with water and extracted with EtOAc (×3). The combined organics were washed with water and brine, dried using a hydrophobic frit and evaporated to give crude material (210 mg). This was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (20-60%) to give the title compound (75 mg).

reactant | N2-Butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 200 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 236 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2,2-Dimethyltetrahydro-2H-pyran-4-yl)methyl methanesulfonate | 152 mg | CS(=O)(=O)OCC1CC(OCC1)(C)C | C9H18O4S
reactant | Lithium bromide | 50 mg | [Br-].[Li+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N2-Butyl-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-8-methoxy-9H-purine-2,6-diamine | 75 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1CC(OCC1)(C)C)OC)N | C18H30N6O2
